Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7],3.7763371428
[C:6]([H:7])#[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],1.1707856781
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[C:7][O:8][H:9].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],1.60929707764
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:11]([O:10][C:8][H:9])([H:12])[H:13]>>[H:1][C:2]1[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[O:10][C:11]1([H:12])[H:13],-4.43238286026
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.14493053697
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][H:4],5.80752190128
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],1.00490313001
[H:7].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]#[C:8][H:9]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])=[C:8][H:9],-2.0024884189
[C:4]([H:5])#[C:6][C:7][O:8][H:9].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:7][O:8][H:9],-0.14179940946
[H:1][C:2]1([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14]1>>[H:1][C:2]([H:3])([C:4]=[C:5]([H:6])[H:7])[O:14][C:11]([C:8]([H:9])[H:10])([H:12])[H:13],1.30753458776
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.882323124080001
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-4.59421328815
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11],-4.32282651307
[H:1][C:2][O:3]/[C:4]([O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3]/[C:4]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[O:5][H:6],6.220141129759999
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],3.94721297868
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],1.99532630357
[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13],-5.05676553683
[C:8]([H:9])#[C:10][C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-0.953349359879
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8]>>[H:4].[O:1]=[C:2]=[C:3][O:5][C:6]#[C:7][H:8],4.36430372187
[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[O:1]=[C:2]([H:3])[O:4][H:5]>>[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],0.465952967619
[C:1].[C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7](=[O:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7](=[O:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.78700698297
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])[C:6]([H:7])([H:8])[O:9][O:10][H:11].[H:5],2.65088787197
[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-2.00273238967
[H:1][C:2]([O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],3.65691546013
[C:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10]>>[C:1]#[C:2][H:3].[C:4]([H:5])([O:6][H:7])=[C:8]([H:9])[H:10],0.61238281752
[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[O:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],-0.928844126338
[H:11].[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[O:10]>>[O:1]=[C:2]([H:3])/[C:4]([C:5]([H:6])[H:7])=[C:8](\[H:9])[O:10][H:11],-1.57667262835
[C:10]([H:11])[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7]([H:8])=[O:9]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-4.138040635119999
[C:1].[O:2]=[C:3]=[C:4][O:5][C:6][H:7]>>[C:1][O:2][C:3]#[C:4][O:5][C:6][H:7],-3.18578555999
[H:1].[O:2]=[C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3]([H:4])[O:5][H:6],-0.8558960872079999
